US03970704
To a mixture of 4 g. of 3,7,11-trimethyldodeca-2,4,10-trien-1-ol, and 25 ml. of benzene at 0° is added a solution of 5 ml. of phosphorus tribromide in 18 ml. of benzene over about 15 minutes. The mixture is stirred at 0° for 1 hour. The mixture is then poured onto ice and extracted with pentane. The organic phase is washed with aqueous sodium bicarbonate, water and then brine, dried over magnesium sulfate and evaporated to yield 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene.

reactant | 3,7,11-trimethyldodeca-2,4,10-trien-1-ol | CC(=CCO)C=CCC(CCC=C(C)C)C | C15H26O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-bromo-3,7,11-trimethyldodeca-2,4,10-triene | BrCC=C(C=CCC(CCC=C(C)C)C)C | C15H25Br
